US07138425B2
c) 2-[4-Allyloxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-allyloxyphenyl)-5-phenylbenzoxazole (190 mg, 0.55 mmol) and 1,2,4-benzenetricarboxylic anhydride (106 mg, 0.55 mmol) the title compound was obtained (102 mg, 36%). 1H NMR (DMSO) δ 8.57(m, 1H), 8.35(dd, 1H), 8.37(s, 1H), 8.13(d, 1H), 7.94(m, 3H), 7.77(d, 1H), 7.63(m, 3H), 7.35(m, 4H), 6.04(m, 1H), 5.49(dd, 1H), 5.33(dd, 1H), 4.77(d, 2H). MS 517 m/z (M+H)+.

reactant | 2-(5-amino-2-allyloxyphenyl)-5-phenylbenzoxazole | 0.55 mmol, 190 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCC=C | C22H18N2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.55 mmol, 106 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Allyloxy-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(C=C)OC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C31H20N2O6
